US07659268B2
To a solution of 6-bromopyridin-2-amine (660 mg, 3.8 mmol) and Et3N (1.1 mL, 7.7 mmol) in dichloromethane (5 mL) was added a solution of 1-(2,2-difluorobenzo-[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (1.0 g, 3.8 mmol) in dichloromethane (5 mL). The resulting reaction mixture was allowed to stir at room temperature for 18 hours. The reaction mixture was diluted with dichloromethane (5 mL) and was washed with 1 N aqueous HCl (1×10 mL) and saturated aqueous NaHCO3 (1×10 mL). The organics were dried over sodium sulfate and evaporated to dryness. The resulting residue was purified by silica gel chromatography eluting with a gradient of 0-70% ethyl acetate in hexane to yield N-(6-bromopyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (780 mg, 51%). 1H NMR (400 MHz, DMSO-d6) δ 9.46 (s, 1H), 8.01-7.99 (m, 1H), 7.75-7.71 (m, 1H), 7.54 (m, 1H), 7.41-7.39 (m, 1H), 7.36-7.30 (m, 2H), 1.52-1.49 (m, 2H), 1.20-1.17 (m, 2H).

reactant | 6-bromopyridin-2-amine | 3.8 mmol, 660 mg | BrC1=CC=CC(=N1)N | C5H5BrN2
reactant | Et3N | 7.7 mmol, 1.1 mL | CCN(CC)CC | C6H15N
reactant | 1-(2,2-difluorobenzo-[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 3.8 mmol, 1.0 g | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)Cl)F | C11H7ClF2O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(6-bromopyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 780 mg, 51% | BrC1=CC=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1 | C16H11BrF2N2O3
